US08252802B2
4-Bromo-1H-pyrrolo[2,3-b]pyridine (0.944 g, 4.79 mmol) in THF (10 ml) was added dropwise to sodium hydride (0.240 g, 5.99 mmol) in THF (10 ml) at 20° C. under nitrogen. The resulting mixture was stirred at 20° C. for 10 minutes. The reaction mixture was cooled to −78° C. and n-butyllithium in hexanes (2.396 mL, 5.99 mmol) was added dropwise over 10 minutes and stirred at −78° C. for 10 minutes. Triisopropyl borate (3.32 mL, 14.37 mmol) was added dropwise over 2 minutes and the reaction mixture allowed to warm to RT over 1.5 hours. The reaction mixture was quenched with water (10 ml) and C18 silica gel was added (10 g) and the mixture was concentrated in vacuo. The resultant solid was purified by reverse phase flash silica chromatography, eluting with a gradient of 5 to 40% acetonitrile in water. Pure fractions were evaporated to afford 1H-pyrrolo[2,3-b]pyridin-4-ylboronic acid (0.590 g, 76%); m/z: (ES+) MH+, 162.88.

reactant | 4-Bromo-1H-pyrrolo[2,3-b]pyridine | 4.79 mmol, 0.944 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | sodium hydride | 5.99 mmol, 0.240 g | [H-].[Na+]
reactant | n-butyllithium | C(CCC)[Li]
reactant | Triisopropyl borate | 14.37 mmol, 3.32 mL | B(OC(C)C)(OC(C)C)OC(C)C | C9H21BO3
solvent | THF | 10 ml | C1CCOC1 | C4H8O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 1H-pyrrolo[2,3-b]pyridin-4-ylboronic acid | 0.590 g, 76% | N1C=CC=2C1=NC=CC2B(O)O | C7H7BN2O2
